US08383637B2
N-[3-(2-Amino-3-propyl-3,4-dihydro-quinazolin-6-yloxy)-phenyl]-benzenesulfonamide
A mixture of N-[3-(4-amino-3-propylaminomethyl-phenoxy)-phenyl]-benzenesulfonamide (0.0044 mol) in ethanol (50 mL) was stirred at room temperature and cyanogen bromide (0.0064 mol) was added, then the reaction mixture was stirred and refluxed for 4 hours. After cooling, the precipitate was filtered off and was stirred in boiling CH3CN with CH3OH. The resulting solids were filtered off, washed with diisopropyl ether and dried to yield the title compound as a solid.

reactant | N-[3-(4-amino-3-propylaminomethyl-phenoxy)-phenyl]-benzenesulfonamide | 0.0044 mol | NC1=C(C=C(OC=2C=C(C=CC2)NS(=O)(=O)C2=CC=CC=C2)C=C1)CNCCC | C22H25N3O3S
reactant | cyanogen bromide | 0.0064 mol | N#CBr | CBrN
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | N-[3-(2-Amino-3-propyl-3,4-dihydro-quinazolin-6-yloxy)-phenyl]-benzenesulfonamide | NC1=NC2=CC=C(C=C2CN1CCC)OC=1C=C(C=CC1)NS(=O)(=O)C1=CC=CC=C1 | C23H24N4O3S
